US07598289B2
1-Biphenyl-4-yl-hex-5-en-1-ol (ABD-162)
1-Biphenyl-4-yl-hex-5-en-1-one (1 g) was dissolved in diethyl ether (25 ml) NaBH4 (2.5 g) was added and the mixture stirred for 30 minutes. Water (50 ml) was added and most of the solvent evaporated under vacuo. The residue was poured into water and the product extracted with ethyl acetate. The orgahic layer was dried (Na2SO4) and the ethyl acetate evaporated under vacuum to give a white solid. δC (CDCl3, 62.9 MHz): 25.2, 33.6, 38.5, 74.3, 114.8, 126.4, 127.1, 127.2, 128.8, 138.6, 140.5, 140.9 and 143.9.

reactant | 1-Biphenyl-4-yl-hex-5-en-1-one | 1 g | C1(=CC=C(C=C1)C(CCCC=C)=O)C1=CC=CC=C1 | C18H18O
reactant | Water | 50 ml | O | H2O
solvent | diethyl ether | 25 ml, 2.5 g | C(C)OCC | C4H10O
product | 1-Biphenyl-4-yl-hex-5-en-1-ol | C1(=CC=C(C=C1)C(CCCC=C)O)C1=CC=CC=C1 | C18H20O
